US07432266B2
Into a 1-neck round-bottom flask was added 5-[3-(benzyloxy)-4-methoxyphenyl]-1-(4-fluorophenyl)-1H-pyrazole (3.5 g, 9.3 mmol) and 100 mL of ethanol. The flask was flushed with nitrogen for 10 minutes and 350 mg of 10% Pd/C was added. The reaction was then stirred under one atmosphere of hydrogen at room temperature overnight. The reaction was degassed under reduced pressure, flushed with argon for 5 minutes, filtered through Celite and concentrated to yield 2.6 g (98%) of 5-[1-(4-fluorophenyl)-1H-pyrazol-5-yl]-2-methoxyphenol as a grey oil. m/z 285.0 (M++1). 1H NMR (CDCl3 300 MHz) δ 3.9 (s, 3H); 5.6 (s, 1H); 6.4 (s, 1H); 6.8 (d, 1H); 7.0 (d, 2H); 7.4 (d, 2H); 7.6 (m, 2H); 7.7 (s, 1H).

reactant | 5-[3-(benzyloxy)-4-methoxyphenyl]-1-(4-fluorophenyl)-1H-pyrazole | 9.3 mmol, 3.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=CC=NN1C1=CC=C(C=C1)F | C23H19FN2O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-[1-(4-fluorophenyl)-1H-pyrazol-5-yl]-2-methoxyphenol | 2.6 g, 98% | FC1=CC=C(C=C1)N1N=CC=C1C=1C=CC(=C(C1)O)OC | C16H13FN2O2
